US05773442
1.94 g of methyl 4-oxo-3-piperidinecarboxylate hydrochloride, 1.68 g of sodium hydrogencarbonate and 1.67 g of ethyl bromoacetate were dissolved in a mixed solvent comprising 32 ml of water and 8 ml of diethyl ether and stirred at room temperature overnight. 50 ml of ethyl acetate was added to the reaction liquid, and the organic layer was separated by liquid-liquid separation. This was dried with sodium sulfate and concentrated. The resulting residue was purified by silica gel column chromatography (using a gradient eluent of chloroform to chloroform/methanol=100/1) to obtain 1.5 g of ethyl 3-methoxycarbonyl-4-oxo-1-piperidineacetate as an oily substance.

reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 1.94 g | Cl.O=C1C(CNCC1)C(=O)OC
reactant | sodium hydrogencarbonate | 1.68 g | C(O)([O-])=O.[Na+]
reactant | ethyl bromoacetate | 1.67 g | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 32 ml | O | H2O
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
product | ethyl 3-methoxycarbonyl-4-oxo-1-piperidineacetate | 1.5 g | COC(=O)C1CN(CCC1=O)CC(=O)OCC | C11H17NO5
